US07442698B2
1-(2-Chloroethyl)-4-(4-nitrophenyl)piperazine
1-(2-Hydroxyethyl)-4-(4-nitrophenyl)piperazine (5 g, 0.02 mol) was dissolved in 50 mL of DCM and treated with HCl (40 mL of a 1M solution in Et2O) under a drying tube for 90 min. The solvent was evaporated, the residue dissolved in thionyl chloride (60 mL) and the mixture refluxed at 80° C. After 5 h, the reaction was complete as shown by LCMS and the thionyl chloride was removed under reduced pressure redissolving in DCM and evaporating three times to give the title compound as the HCl salt. LCMS: 93%, t=0.88 min, [MH+]=270.23.

reactant | 1-(2-Hydroxyethyl)-4-(4-nitrophenyl)piperazine | 0.02 mol, 5 g | OCCN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O3
reactant | HCl | Cl | ClH
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | 1-(2-Chloroethyl)-4-(4-nitrophenyl)piperazine | ClCCN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H16ClN3O2
